US07645778B2
1-Benzoyl-3-[2-(2-tert-butyl-phenoxy)-pyridin-3-yl]-thiourea
A mixture of 2-(2-tert-Butylphenoxy)-3-aminopyridine (200 mg, 0.82 mmol) and benzoyl isothiocyanate (133 μL, 0.99 mmol, 1.2 eq) in DCM (10 mL) was heated at reflux for 1 h. The mixture was cooled to rt and evaporated to give the crude product. Purification by flash chromatography (silica, 0-50% EtOAc/hexane gradient) provided Example 217a as a white fluffy powder. (M+H)+=406.29.

reactant | 2-(2-tert-Butylphenoxy)-3-aminopyridine | 0.82 mmol, 200 mg | C(C)(C)(C)C1=C(OC2=NC=CC=C2N)C=CC=C1 | C15H18N2O
reactant | benzoyl isothiocyanate | 0.99 mmol, 133 μL, 1.2 eq | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzoyl-3-[2-(2-tert-butyl-phenoxy)-pyridin-3-yl]-thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC=1C(=NC=CC1)OC1=C(C=CC=C1)C(C)(C)C | C23H23N3O2S
